US06696591B1
3-hydroxymethylphenol (25.25 g, 0.2 moles) is dissolved in a 5% hydroxide sodium solution (160 ml). To the so obtained solution an acetylsalicylic acid chloride solution (40.4 g, 0.2 moles) in dichloromethane (50 ml) is added at roam temperature, under stirring. The mixture is maintained at room temperature under stirring for 2 hours and then extracted with dichloromethane (2×100 ml). The organic phase is separated, anhydrified with sodium sulphate and the solvent evaporated under vacuum. The residue is crystallized from a mixture of ethyl acetate and hexane. 3-hydroxymethylphenyl ester of the 2-acetoxybenzoic acid (45.8 g, 0.16 moles, yield 80%) is obtained.

reactant | 3-hydroxymethylphenol | 0.2 moles, 25.25 g | OCC=1C=C(C=CC1)O | C7H8O2
reactant | acetylsalicylic acid chloride | 0.2 moles, 40.4 g | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
solvent | hydroxide sodium | 160 ml | [Na+].[OH-]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-acetoxybenzoic acid | 0.16 moles, 45.8 g, yield 80% | C(C)(=O)OC1=C(C(=O)O)C=CC=C1 | C9H8O4
